US07943622B2
Step 5. Synthesis of N-(4-methoxyphenyl)-2-((pyridin-3-ylamino)methyl)piperazine-1-carboxamide dihydrochloride
4 M HCl in 1,4-dioxane (6 mL, 24 mmol) was added to a solution of tert-butyl 4-(4-methoxyphenylcarbamoyl)-3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate TFA salt (81.7 mg, 0.147 mmol) in MeOH (1 mL). After 1 h, the reaction mixture was concentrated under reduced pressure and purified by HPLC (5 to 50% MeCN/0.1% TFA in H2O/0.1% TFA gradient). The fractions containing the desired product were concentrated under reduced pressure. The material was dissolved in MeOH (1 mL) and treated with 4 M HCl in 1,4-dioxane (6 mL). The mixture was concentrated under reduced pressure to give 49.9 mg (82%) of the title compound as a white solid. LC-MS: RT=1.95 min, [M+H]+=342.1.

reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 24 mmol, 6 mL | O1CCOCC1 | C4H8O2
reactant | tert-butyl 4-(4-methoxyphenylcarbamoyl)-3-((pyridin-3-ylamino)methyl)piperazine-1-carboxylate TFA salt | 0.147 mmol, 81.7 mg | OC(=O)C(F)(F)F.COC1=CC=C(C=C1)NC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)CNC=1C=NC=CC1
solvent | MeOH | 1 mL | CO | CH4O
product | N-(4-methoxyphenyl)-2-((pyridin-3-ylamino)methyl)piperazine-1-carboxamide dihydrochloride | 49.9 mg, 82% | Cl.Cl.COC1=CC=C(C=C1)NC(=O)N1C(CNCC1)CNC=1C=NC=CC1 | InChI=1S/C18H23N5O2.2ClH/c1-25-17-6-4-14(5-7-17)22-18(24)23-10-9-20-12-16(23)13-21-15-3-2-8-19-11-15;;/h2-8,11,16,20-21H,9-10,12-13H2,1H3,(H,22,24);2*1H
